US06013649
Part A: A solution of (18.13 g, 57 mmol) of N-acetyl-β-(4-methoxyphenylsulfonyl)-D,L-alanine methyl ester in 125 mL concentrated hydrochloric acid and 125 mL of glacial acetic acid was refluxed for several hours under nitrogen atmosphere. The contents were concentrated by rotory evaporation to yield a crude solid which was slurried in dry toluene and filtered to yield 14.3 g of β-(4-methoxyphenylsulfonyl)-D,L-alanine hydrochloride as a white crystalline solid.

reactant | N-acetyl-β-(4-methoxyphenylsulfonyl)-D,L-alanine methyl ester | 57 mmol, 18.13 g | COC(C(NC(C)=O)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C13H17NO6S
reactant | hydrochloric acid | 125 mL | Cl | ClH
solvent | acetic acid | 125 mL | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | β-(4-methoxyphenylsulfonyl)-D,L-alanine hydrochloride | 14.3 g | Cl.COC1=CC=C(C=C1)S(=O)(=O)CC(N)C(=O)O | InChI=1S/C10H13NO5S.ClH/c1-16-7-2-4-8(5-3-7)17(14,15)6-9(11)10(12)13;/h2-5,9H,6,11H2,1H3,(H,12,13);1H
